US08106064B2
3-{3-[2-Fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy}-5-methyl-benzaldehyde (130):
A mixture of 6-(3-[1,3]dioxolan-2-yl-5-methyl-phenoxy)-1-[2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-1H-pyrimidine-2,4-dione (714 mg, 1.24 mmol), PPTS (62 mg, 0.25 mmol), and water (5 drops) in acetone (10 ml) was heated under reflux for 3 hr. After cooling to room temperature, the mixture was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, EA: hexanes (from 1:1 to 2:3)) to afford 548 mg (83%) of a white solid. 1H NMR (200 MHz, CD3OD/CDCl3) δ 1.00 (6H, d, J=7.4 Hz), 2.30 (3H, s), 2.58 (1H, m), 3.71 (3H, s), 4.19 (2H, s), 4.65 (2H, s), 5.78 (1H, s), 5.86 (1H, s), 6.76-6.80 (3H, m), 7.02 (1H, s), 7.11-7.16 (2H, s), 7.32 (1H, s), 9.78 (1H, s).

reactant | 6-(3-[1,3]dioxolan-2-yl-5-methyl-phenoxy)-1-[2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-1H-pyrimidine-2,4-dione | 1.24 mmol, 714 mg | O1C(OCC1)C=1C=C(OC2=C(C(NC(N2CC2=CC(=NC(=C2)NCC2=CC=C(C=C2)OC)F)=O)=O)C(C)C)C=C(C1)C | C31H33FN4O6
reactant | PPTS | 0.25 mmol, 62 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
catalyst | water | 5 drops | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3-{3-[2-Fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy}-5-methyl-benzaldehyde | 548 mg, 83% | FC1=NC(=CC(=C1)CN1C(NC(C(=C1OC=1C=C(C=O)C=C(C1)C)C(C)C)=O)=O)NCC1=CC=C(C=C1)OC | C29H29FN4O5
